US04226867
4'-(2-Methylaminopropyl)-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride
A mixture of 4-(2-methylaminopropyl) cyclohexanone (4.0 g., 0.024 mole) and 4-amino-6-chloro-1,3-benzenedisulfonamide (4.4 g., 0.0154 mole) in 2 N ethanolic HCl (75 ml.) is refluxed for one hour and cooled to give 7.0 g. of 4'-(2-methylaminopropyl)-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H)-1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride which melts at 296° C.

reactant | 4-(2-methylaminopropyl) cyclohexanone | 0.024 mole, 4.0 g | CNC(CC1CCC(CC1)=O)C | C10H19NO
reactant | 4-amino-6-chloro-1,3-benzenedisulfonamide | 0.0154 mole, 4.4 g | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)N)S(=O)(=O)N | C6H8ClN3O4S2
solvent | HCl | 2 N, 75 ml | Cl | ClH
product | 4'-(2-Methylaminopropyl)-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride | Cl.CNC(CC1CCC2(CC1)NS(C1=C(N2)C=C(C(=C1)S(=O)(=O)N)Cl)(=O)=O)C | InChI=1S/C16H25ClN4O4S2.ClH/c1-10(19-2)7-11-3-5-16(6-4-11)20-13-8-12(17)14(26(18,22)23)9-15(13)27(24,25)21-16;/h8-11,19-21H,3-7H2,1-2H3,(H2,18,22,23);1H
